US09085540B2
To a mixture of 6-(2-hydroxypropan-2-yl)-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide (300 mg), tetrahydrofuran (6 mL), and methanol (12 mL) were added sodium dithionite (1.03 g), sodium hydrogen carbonate (993 mg), and water (13.5 mL), followed by stirring at room temperature for 30 minutes, and then stirring at 50° C. for 2 hours. To the reaction mixture was added chloroform-isopropanol (4:1), and then the organic phase was washed with water. The organic phase was dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (NH2 type, eluent; chloroform:methanol:28% aqueous ammonia=50:1:0.1-20:1:0.1) to obtain 5-(3-aminophenoxy)-6-(2-hydroxypropan-2-yl)-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide (27 mg) as a yellow solid.

reactant | 6-(2-hydroxypropan-2-yl)-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide | 300 mg | OC(C)(C)C1=C(N=C(C(=N1)C(=O)N)NC1=CC=C(C=C1)N1CCN(CC1)C)OC1=CC(=CC=C1)[N+](=O)[O-] | C25H29N7O5
reactant | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
reactant | sodium dithionite | 1.03 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | 993 mg | C(O)([O-])=O.[Na+]
solvent | chloroform isopropanol | C(Cl)(Cl)Cl.C(C)(C)O
solvent | water | 13.5 mL | O | H2O
solvent | methanol | 12 mL | CO | CH4O
product | 5-(3-aminophenoxy)-6-(2-hydroxypropan-2-yl)-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide | 27 mg | NC=1C=C(OC=2N=C(C(=NC2C(C)(C)O)C(=O)N)NC2=CC=C(C=C2)N2CCN(CC2)C)C=CC1 | C25H31N7O3
